US03987047
1,2,4,5-Tetrahydro-11-propyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride was prepared from 1,2,4,5-tetrahydro-11-propyl-3H-azepino[4,5-b]quinoline and ethyl chloroformate analogous to Example 63.

reactant | 1,2,4,5-tetrahydro-11-propyl-3H-azepino[4,5-b]quinoline | C(CC)C1=C2C(=NC=3C=CC=CC13)CCNCC2 | C16H20N2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 1,2,4,5-Tetrahydro-11-propyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride | Yield: 84% | Cl.C(C)OC(=O)N1CCC2=NC=3C=CC=CC3C(=C2CC1)CCC | InChI=1S/C19H24N2O2.ClH/c1-3-7-14-15-8-5-6-9-17(15)20-18-11-13-21(12-10-16(14)18)19(22)23-4-2;/h5-6,8-9H,3-4,7,10-13H2,1-2H3;1H
